US06576675B1
A solution of 4-fluorophenylacetylene (0.02 mol) and 4-iodobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form Z-4-fluorostyryl 4-iodobenzylsulfide. The title compound is obtained following oxidation.

reactant | 4-fluorophenylacetylene | 0.02 mol | FC1=CC=C(C=C1)C#C | C8H5F
reactant | 4-iodobenzyl mercaptan | 0.02 mol | IC1=CC=C(CS)C=C1 | C7H7IS
reactant | sodium | 0.02 g | [Na] | Na
product | Z-4-fluorostyryl 4-iodobenzylsulfide | FC1=CC=C(\C=C/C(C2=CC=C(C=C2)I)SC(C2=CC=C(C=C2)I)\C=C/C2=CC=C(C=C2)F)C=C1 | C30H22F2I2S
